US09216980B2
Step 4: 3-(1-Methyl-1H-pyrazol-4-yl)-5-(piperidin-4-ylsulfanyl)-9H-dipyrido[2,3-b;4′3′-d]pyrrole-6-carbonitrile
A mixture of 4-[6-cyano-3-(1-methyl-1H-pyrazol-4-yl)-9-(2-trimethylsilanyl-ethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-ylsulfanyl]-piperidine-1-carboxylic acid tert-butyl ester (106 mg, 0.17 mmol) and trifluoroacetic acid (1 mL) in dichloromethane (9 mL) was stirred at ambient temperature for 22 h. The reaction mixture was concentrated in vacuo and the resultant residue partitioned between dichloromethane (10 mL) and a saturated aqueous solution of sodium hydrogen carbonate (10 mL). The organic phase was concentrated in vacuo and the residue was adsorbed onto HM-N then purified by flash chromatography (silica, 25 g column, Si-SPE, 0-13% (2M ammonia in MeOH) in DCM) to afford the title compound as a pale yellow solid (21.5 mg, 25%). NMR (DMSO-D6, 300 MHz): 9.04 (d, J=2.2 Hz, 1H), 9.02-8.97 (m, 2H), 8.29 (s, 1H), 7.98 (s, 1H), 3.93 (s, 3H), 3.54-3.21 (m, 1H), 2.97-2.86 (m, 2H), 2.49-2.36 (m, 2H), 1.89-1.77 (m, 2H), 1.65-1.47 (m, 2H). LCMS (Method F): RT=7.08 min, M+H+=390.

reactant | 4-[6-cyano-3-(1-methyl-1H-pyrazol-4-yl)-9-(2-trimethylsilanyl-ethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-ylsulfanyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 106 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)SC1=C(N=CC2=C1C1=C(N2COCC[Si](C)(C)C)N=CC(=C1)C=1C=NN(C1)C)C#N | C31H41N7O3SSi
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | 3-(1-Methyl-1H-pyrazol-4-yl)-5-(piperidin-4-ylsulfanyl)-9H-dipyrido[2,3-b;4′3′-d]pyrrole-6-carbonitrile | 21.5 mg, 25% | CN1N=CC(=C1)C1=CC2=C(NC3=C2C(=C(N=C3)C#N)SC3CCNCC3)N=C1 | C20H19N7S
